US07045551B2
Step C: (R)-2-Amino-2-(3-morpholin-4-ylmethyl-phenyl)-ethanol hydrochloride
(R)-[2-Hydroxy-1-(3-morpholin-4-ylmethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester (2.1 g, 6.25 mmol) in methanol (22 mL) was added hydrochloric acid (2.0M in ethyl ether) (10.88 mL, 21.8 mmol) and reaction mixture was stirred at room temperature for 5 hr. The reaction mixture was concentrated under vacuum to provide the title compound as a pale green solid (quantitative yield).

reactant | (R)-[2-Hydroxy-1-(3-morpholin-4-ylmethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 6.25 mmol, 2.1 g | C(C)(C)(C)OC(N[C@@H](CO)C1=CC(=CC=C1)CN1CCOCC1)=O | C18H28N2O4
reactant | hydrochloric acid | 21.8 mmol, 2.0M, 10.88 mL | Cl | ClH
solvent | methanol | 22 mL | CO | CH4O
product | (R)-2-Amino-2-(3-morpholin-4-ylmethyl-phenyl)-ethanol hydrochloride | quantitative yield | Cl.N[C@@H](CO)C1=CC(=CC=C1)CN1CCOCC1 | InChI=1S/C13H20N2O2.ClH/c14-13(10-16)12-3-1-2-11(8-12)9-15-4-6-17-7-5-15;/h1-3,8,13,16H,4-7,9-10,14H2;1H/t13-;/m0./s1
